US07767675B2
Step 3. tert-butyl (3-[2-(4-bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylphenyl)carbamate
A mixture of 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine (19 mg, 0.070 mmol) and tert-butyl [3-(2-chloro-3-oxopropyl)phenyl]carbamate (20 mg, 0.070 mmol) in ethanol (0.4 mL) was stirred overnight at 105° C. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=498.0/500.0.

reactant | 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine | 0.070 mmol, 19 mg | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)N)F | C9H6BrFN4
reactant | tert-butyl [3-(2-chloro-3-oxopropyl)phenyl]carbamate | 0.070 mmol, 20 mg | ClC(CC=1C=C(C=CC1)NC(OC(C)(C)C)=O)C=O | C14H18ClNO3
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
product | tert-butyl (3-[2-(4-bromo-3-fluorophenyl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylphenyl)carbamate | BrC1=C(C=C(C=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C(C=CC2)NC(OC(C)(C)C)=O)F | C23H21BrFN5O2
